US05510345
Preparation of 2,4-bis(1-adamantylamino)-6-chloropyrimidine
A solution containing 26.0 g (87.25 mmoles) of 4,6-dichloro-2-(1-adamantylamino)pyrimidine and 39.5 g (261.6 mmoles) of 1-aminoadamantane in 200 ml of n-butanol is boiled under reflux for 75 hours, then evaporated. The evaporation residue is suspended in 400 ml of ether, the suspension is filtered off and, after drying, the product filtered off is purified by chromatography on a silica gel column. By using chloroform as eluent and recrystallizing the obtained product from ether the title compound is obtained in a yield of 23.94 g (66.44%), m.p.: 232°-236° C.

reactant | 4,6-dichloro-2-(1-adamantylamino)pyrimidine | 87.25 mmoles, 26.0 g | ClC1=NC(=NC(=C1)Cl)NC12CC3CC(CC(C1)C3)C2 | C14H17Cl2N3
reactant | 1-aminoadamantane | 261.6 mmoles, 39.5 g | NC12CC3CC(CC(C1)C3)C2 | C10H17N
solvent | n-butanol | 200 ml | C(CCC)O | C4H10O
product | 2,4-bis(1-adamantylamino)-6-chloropyrimidine | C12(CC3CC(CC(C1)C3)C2)NC2=NC(=CC(=N2)NC23CC1CC(CC(C2)C1)C3)Cl | C24H33ClN4
